US06995144B2
1-(tert-Butoxycarbonyl)-4-[2-(methanesulfonylamino)phenoxymethyl]piperidine
After dissolving 400 mg of 1-(tert-butoxycarbonyl)-4-(2-aminophenoxymethyl)piperidine in 10 ml of tetrahydrofuran, 0.24 ml of triethylamine and 0.12 ml of methanesulfonyl chloride were added and the mixture was stirred overnight at room temperature. Next, 0.24 ml of triethylamine and 0.12 ml of methanesulfonyl chloride were added to the reaction solution and stirring was continued at room temperature for 2 hours. The reaction solution was filtered with silica gel and NH silica gel, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (447 mg, 90% yield).

reactant | 1-(tert-butoxycarbonyl)-4-(2-aminophenoxymethyl)piperidine | 400 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=CC=C1)N | C17H26N2O3
reactant | methanesulfonyl chloride | 0.12 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 0.12 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.24 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.24 ml | C(C)N(CC)CC | C6H15N
product | 1-(tert-Butoxycarbonyl)-4-[2-(methanesulfonylamino)phenoxymethyl]piperidine | 447 mg, 90% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=CC=C1)NS(=O)(=O)C | C18H28N2O5S
